US08022075B2
[4-(1,3-Oxazol-5-yl)phenyl]methanol (37)
A solution (2.08 mL) of lithium aluminum hydride (2.4 mole) in tetrahydrofuran was added dropwise under ice cooling to a solution of methyl 4-(1,3-oxazol-5-yl)benzoate (1.02 g) in tetrahydrofuran (20 mL), followed by stirring at 0° C. for 30 minutes. Hydrogen fluoride (840 mg) and water (270 mL) were added to the solution, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified through flash column chromatography (n-hexane:ethyl acetate=3:2), followed by concentration under reduced pressure, to thereby yield the title compound (321 mg).

reactant | lithium aluminum hydride | 2.4 mole, 2.08 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-(1,3-oxazol-5-yl)benzoate | 1.02 g | O1C=NC=C1C1=CC=C(C(=O)OC)C=C1 | C11H9NO3
reactant | Hydrogen fluoride | 840 mg | F | FH
reactant | water | 270 mL | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [4-(1,3-Oxazol-5-yl)phenyl]methanol | 321 mg | O1C=NC=C1C1=CC=C(C=C1)CO | C10H9NO2
